US05071875
Using a procedure similar to that described in Example 1, 0.40 g of 7-methoxy-2-amino-tetralin yielded 0.21 g (51%) of 7-methoxy-2-acetamido-tetralin following treatment with acetic anhydride.

reactant | 7-methoxy-2-amino-tetralin | 0.40 g | COC1=CC=C2CCC(CC2=C1)N | C11H15NO
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 7-methoxy-2-acetamido-tetralin | 0.21 g, 51% | COC1=CC=C2CCC(CC2=C1)NC(C)=O | C13H17NO2
